US05240938
Step A: Preparation of methyl 4-tert-butyldimethylsilyloxy-3,5-dichlorobenzoate
To a solution of 10.00 g (45.2 mmol) of methyl 3,5-dichloro-4-hydroxybenzoate dissolved in 100 mL of CH2Cl2 was added 11.06 g (90.2 mmol) of 4-dimethylaminopyridine and 8.18 g (54.2 mmol) of tert-butyldimethylchlorosilane and the mixture was stirred under N2 for 5 hours. The reaction mixture was then filtered and the filtrate was diluted with ethyl acetate. The solution was washed with water, 1N HC1, saturated NaHCO3, dried (MgSO4), filtered and evaporated. The residue was purified on a silica gel flash chromatography column eluted with 5% ethyl acetate/hexane to afford 7.70 g (51%) of the title compound.

reactant | methyl 3,5-dichloro-4-hydroxybenzoate | 45.2 mmol, 10.00 g | ClC=1C=C(C(=O)OC)C=C(C1O)Cl | C8H6Cl2O3
reactant | tert-butyldimethylchlorosilane | 54.2 mmol, 8.18 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 90.2 mmol, 11.06 g | CN(C1=CC=NC=C1)C | C7H10N2
product | methyl 4-tert-butyldimethylsilyloxy-3,5-dichlorobenzoate | 7.70 g, 51% | [Si](C)(C)(C(C)(C)C)OC1=C(C=C(C(=O)OC)C=C1Cl)Cl | C14H20Cl2O3Si
